US07291632B2
N-(6-(Methyl-(1-methylpiperidin-4-yl)amino)pyridin-2-yl)isonicotinamide hydrochloride
Prepare according to procedure in Example 69 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34) (175 mg, 0.794 mmol), isonicotinoyl chloride hydrochloride (212 mg, 1.19 mmol), and pyridine (15 mL) to yield 247 mg (86%) of the title compound: mass spectrum (ion spray): m/z=326.1 (M+1); Analysis Calcd for C18H24N5OCl.0.5H2O: C, 58.29; H, 6.79; N, 18.88. Found: C, 58.49; H, 6.79; N, 19.22. mp 274–7° C.

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.794 mmol, 175 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | isonicotinoyl chloride hydrochloride | 1.19 mmol, 212 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-(6-(Methyl-(1-methylpiperidin-4-yl)amino)pyridin-2-yl)isonicotinamide hydrochloride | 247 mg, 86% | Cl.CN(C1=CC=CC(=N1)NC(C1=CC=NC=C1)=O)C1CCN(CC1)C | InChI=1S/C18H23N5O.ClH/c1-22-12-8-15(9-13-22)23(2)17-5-3-4-16(20-17)21-18(24)14-6-10-19-11-7-14;/h3-7,10-11,15H,8-9,12-13H2,1-2H3,(H,20,21,24);1H
